US08466186B2
(a) Tert-butyl N-{4-chloro-3-[5-chloro-1-methyl-6-(4-trifluoromethyl-piperidin-1-yl)-1H-benzo[d]imidazol-2-ylamino]benzyl}-carbamate
The sub-title compound was prepared in analogy to Example 76 using 5-chloro-2-methylamino-4-(4-trifluoromethyl-piperidin-1-yl)aniline (508 mg, 1.65 mmol), tert-butyl 4-chloro-3-isothiocyanatobenzylcarbamate (493 mg, 1.65 mmol), DIC (208 mg, 1.65 mmol) and

reactant | 5-chloro-2-methylamino-4-(4-trifluoromethyl-piperidin-1-yl)aniline | 1.65 mmol, 508 mg | ClC=1C(=CC(=C(N)C1)NC)N1CCC(CC1)C(F)(F)F | C13H17ClF3N3
reactant | tert-butyl 4-chloro-3-isothiocyanatobenzylcarbamate | 1.65 mmol, 493 mg | ClC1=C(C=C(CNC(OC(C)(C)C)=O)C=C1)N=C=S | C13H15ClN2O2S
reactant | DIC | 1.65 mmol, 208 mg | CC(N=C=NC(C)C)C | C7H14N2
product | Tert-butyl N-{4-chloro-3-[5-chloro-1-methyl-6-(4-trifluoromethyl-piperidin-1-yl)-1H-benzo[d]imidazol-2-ylamino]benzyl}-carbamate | ClC1=C(C=C(CNC(OC(C)(C)C)=O)C=C1)NC1=NC2=C(N1C)C=C(C(=C2)Cl)N2CCC(CC2)C(F)(F)F | C26H30Cl2F3N5O2
